US04300973
1,1'-Methylenebis(3-hydroxymethyl-4,5-dihydroxyimidazolidin-2-one) (Ex. 3);
1,1'-methylenebis(3-methoxymethyl-4,5-dihydroxyimidazolidin-2-one) (Ex. 4); 1,1'-methylenebis[3-(2-hydroxyethyl)-4,5-dihydroxyimidazolidin-2-one] (Ex. 5); and 4,5-dihydroxy-1,3-di(methoxymethyl)-2-imidazolidinone (Ex. 6) are evaluated as adhesion promoters in natural rubber as follows:

reactant | 1,1'-methylenebis(3-methoxymethyl-4,5-dihydroxyimidazolidin-2-one) | C(N1C(N(C(C1O)O)COC)=O)N1C(N(C(C1O)O)COC)=O | C11H20N4O8
reactant | 1,1'-methylenebis[3-(2-hydroxyethyl)-4,5-dihydroxyimidazolidin-2-one] | C(N1C(N(C(C1O)O)CCO)=O)N1C(N(C(C1O)O)CCO)=O | C11H20N4O8
reactant | 4,5-dihydroxy-1,3-di(methoxymethyl)-2-imidazolidinone | OC1N(C(N(C1O)COC)=O)COC | C7H14N2O5
product | 1,1'-Methylenebis(3-hydroxymethyl-4,5-dihydroxyimidazolidin-2-one) | C(N1C(N(C(C1O)O)CO)=O)N1C(N(C(C1O)O)CO)=O | C9H16N4O8
